US06673795B2
A mixture of 68 mg (0.21 mmol) of 3-methylsulfanyl-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile and 14.5 mg (0.23 mmol) ethanolamine in 1 ml of dioxane was stirred at 120° C. overnight. For the working-up, the solution was evaporated under reduced pressure and the residue was chromatographed on silica gel with a 90:10:0.1 mixture of dichloromethane, methanol, and ammonium hydroxide as the eluent. There were obtained 35 mg (0.10 mmol, 50% of theory) of 3-(2-hydroxy-ethylamino)-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile as an amorphous, white solid; MS: 323 (M+H)+;

reactant | 3-methylsulfanyl-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile | 0.21 mmol, 68 mg | CSC=1N=NC(=C(N1)N1CCC(=CC1)C1=CC=CC=C1)C#N | C16H15N5S
reactant | ethanolamine | 0.23 mmol, 14.5 mg | C(O)CN | C2H7NO
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 3-(2-hydroxy-ethylamino)-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile | 0.10 mmol, 35 mg, 50% | OCCNC=1N=NC(=C(N1)N1CCC(=CC1)C1=CC=CC=C1)C#N | C17H18N6O
